### PR TITLE
Degrees of maps of spheres

### PR DESCRIPTION
**Pull request by ncfavier**
A billion annoying computations to show that $\pi_n S^n \simeq \mathbb{Z}$ commutes with suspension, and a definition of degrees of (pointed and unpointed) maps $S^n \to S^n$.

Also shows that truncations preserve homogeneous types.

I should have everything I need to upstream https://agda.monade.li/TangentBundlesOfSpheres after this, if that is something we want.

### CODE REVIEW

File: src/Homotopy/Space/Sphere/Degree.lagda.md [hunk 1]
```diff
@@ -0,0 +1,220 @@
...
+      ≡˘⟨ ap¡ (Ωⁿ≃Sⁿ-map-natural (suc n) (suspend∙ A) f) ⟩
+    Equiv∙.from∙ (Ωⁿ-suc (Σ¹ A) (suc n)) · (Ωⁿ-map (suc n) (suspend∙ A) · (Ωⁿ≃Sⁿ-map (suc n) · f))
+      ∎
+
+degree∙-Susp-map∙
+  : ∀ n (f : Sⁿ (suc n) →∙ Sⁿ (suc n))
+  → degree∙ (suc n) (Susp-map∙ f) ≡ degree∙ n f
+degree∙-Susp-map∙ n f =
+  πₙSⁿ≃Int (suc n) · (inc ⌜ Ωⁿ≃Sⁿ-map (2 + n) · Susp-map∙ f ⌝)
+    ≡⟨ ap (πₙSⁿ≃Int (suc n) .fst ∘ inc) (Ωⁿ-suspend-is-Susp-map∙ (Sⁿ (suc n)) n f) ⟩
```
Comment (ncfavier) [inline src/Homotopy/Space/Sphere/Degree.lagda.md:93]: `ap!` doesn't see the marker here, not sure why.

Comment (ncfavier) [reply src/Homotopy/Space/Sphere/Degree.lagda.md:93]: Yep that works.

File: src/Homotopy/Loopspace.lagda.md [hunk 2]
```diff
@@ -49,32 +49,33 @@ us to state and prove several annoying higher coherences involving
 conjugation.
 
 ```agda
-Ω¹-map : (A →∙ B) → Ω¹ A →∙ Ω¹ B
-Ω¹-map (f , pt) .fst α = conj pt (ap f α)
-Ω¹-map (f , pt) .snd   = conj-of-refl pt
+opaque
+  Ω¹-map : (A →∙ B) → Ω¹ A →∙ Ω¹ B
+  Ω¹-map (f , pt) .fst α = conj pt (ap f α)
+  Ω¹-map (f , pt) .snd   = conj-of-refl pt
```
Comment (plt-amy) [inline src/Homotopy/Loopspace.lagda.md:55]: hmm why?

**Comment by plt-amy** [comment]
Okay I've been thinking this for a while and it doesn't really have anything specifically to do with *this* PR, but, um. Surely the word is "connectivity"?

File: src/1Lab/Type/Pointed.lagda.md [hunk 3]
```diff
@@ -313,3 +339,15 @@ homogeneous-funext∙ {A = A} {B = B , b₀} {f = f∙@(f , f*)} {g∙@(g , g*)}
       k (j = i0) → hom b₀ k
       k (j = i1) → hom b₀ k
 ```
+
+<!--
+```agda
+Type∙-path-is-hlevel
+  : ∀ {ℓ} {A : Type ℓ} {x y : A} n
+  → ⦃ _ : H-Level A (suc n) ⦄ ⦃ _ : H-Level A (suc (suc n)) ⦄
```
[the remark this answers is not in the document]
Comment (ncfavier) [reply src/1Lab/Type/Pointed.lagda.md:347]: Both are needed and I couldn't get a single assumption to work without giving hlevel proofs by hand, so this seemed easier.

**Comment by ncfavier** [comment]
> Okay I've been thinking this for a while and it doesn't really have anything specifically to do with _this_ PR, but, um. Surely the word is "connectivity"?

At the time I simply followed the most prevalent usage, which seems to be "connectedness" in both the nLab, Wikipedia and the HoTT book (although the latter two also use "connectivity" in some places).

I don't have strong feelings either way.

**Comment by ncfavier** [comment]
Pushed two more quick commits, one proving that the Hopf fibration doesn't have a section and one characterising the joins of spheres and proving that the total space is S³. I'll leave this PR alone now.
